US05935989
3-(3-Pyridyl)-1-propylmercaptan
A mixture of 3-(3-pyridyl)-1-propylchloride (3 g; 19.4 mmol) and thiourea (1.48 g; 19.4 mmol) in ethanol (10 mL) was refluxed for 24 hours. Aqueous sodium hydroxide, 15 mL of a 0.75N solution, was added, and the mixture was refluxed for an additional 2 hrs. After cooling to room temperature, the solvent was removed in vacuo. Chromatographic purification of the crude thiol on a silica gel column eluting with 50% ethyl acetate in hexane delivered 1.2 g of 3-(3-Pyridyl)-1-propylmercaptan as a clear liquid 1H NMR (300 MHz, CDCl3): δ1.34 (m, 1H); 1.90 (m, 2H); 2.52 (m, 2H); 2.71 (m, 2H); 7.81 (m, 1H); 7.47 (m, 1H); 8.42 (m, 2H).

reactant | 3-(3-pyridyl)-1-propylchloride | 19.4 mmol, 3 g | N1=CC(=CC=C1)CCCCl | C8H10ClN
reactant | thiourea | 19.4 mmol, 1.48 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(3-Pyridyl)-1-propylmercaptan | N1=CC(=CC=C1)CCCS | C8H11NS
